US03948937
To a slurry of 100 g of the disodium salt of 2-benzoylacetylbenzoic acid in 400 ml of methanol is added first 12.5 g concentrated hydrochloric acid, followed by 11 g of hydrazine hydrate. This reaction mixture is heated at reflux for one-half hour, cooled to 5°-10°, acidified to pH 3 with concentrated hydrochloric acid, and diluted with 300 ml of water. The crystals are filtered off and recrystallized from ethanol-water, yielding 59 g of 3-(2-carboxyphenyl)-5-phenylpyrazole, mp 204°-205.5° .

reactant | disodium | 100 g | [Na][Na] | 2Na
reactant | 2-benzoylacetylbenzoic acid | C(C1=CC=CC=C1)(=O)CC(=O)C1=C(C(=O)O)C=CC=C1 | C16H12O4
reactant | hydrochloric acid | 12.5 g | Cl | ClH
reactant | hydrazine hydrate | 11 g | O.NN
solvent | methanol | 400 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
product | 3-(2-carboxyphenyl)-5-phenylpyrazole | 59 g | C(=O)(O)C1=C(C=CC=C1)C1=NNC(=C1)C1=CC=CC=C1 | C16H12N2O2
